US04665064
(A) The preparation of zinc 1-ethyl-3-hydroxypyrid-2-one
A chloroform solution of 1-ethyl-3-hydroxypyrid-2-one(3) is mixed with a 1M solution of zinc chloride in ethanol to provide a 2:1 molar ratio of hydroxypyridone:zinc in the mixture. After 5 minutes at 20° C., a 10 molar excess of solid sodium carbonate is added and the mixture is stirred for 10 minutes. The mixture is then filtered and the solvent evaporated to give the neutral complex containing the hydroxypyridone and Zn++ in a 2:1 proportion. Recrystallisation of the 2:1 complex from ethanol gives a white crystalline solid in essentially quantitative yield, m.p. 200° C. (with decomposition); νmax (1) 1620 cm-1 ; δ(d6DMSO), 6.80 (q, 1H), 6.30 (m, 2H), 4.01 (q, 2H), 3.3 (s, 3H), 1.23 (t, 3H).

reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
reactant | hydroxypyridone | OC=1C(NC=CC1)=O | C5H5NO2
reactant | zinc | [Zn] | Zn
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | zinc 1-ethyl-3-hydroxypyrid-2-one | quantitative yield | C(C)N1C(C(=CC=C1)O)=O.[Zn] | InChI=1S/C7H9NO2.Zn/c1-2-8-5-3-4-6(9)7(8)10;/h3-5,9H,2H2,1H3;
